US06194425B1
Benzyl isocyanate (59 μL, 0.48 mmol) was added at ambient temperature to a suspension of 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.15 g, 0.48 mmol) in tetrahydrofuran (60 mL). A solution was obtained in less than 30 minutes and thin layer chromatography (9:1 dichloromethane:methanol) showed one major new spot with a higher Rf and only a trace of starting material. Aminomethyl resin (280 mg) was added and the reaction mixture was stirred for 15 minutes. The solvent was removed under vacuum. The residue was purified by column chromatography to provide 0.16 g of N-[4-(4-arnino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-N′-benzylurea as a white solid. Analysis: Calculated for C25H31N7O: % C, 67.39; % H, 7.01; % N, 22.00; Found: % C, 67.43; % H, 6.92; % N, 22.02.

reactant | Benzyl isocyanate | 0.48 mmol, 59 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.48 mmol, 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | N-[4-(4-arnino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-N′-benzylurea | 0.16 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(=O)NCC2=CC=CC=C2)CCCC | C25H31N7O
